US06794395B1
(53) 3-(Z)-(1-{4-[N-(2-dimethylamino-ethyl)-N-methylsulphonyl-amino]-anilino}-1-phenyl-methylidene)-6-trifluoromethyl-2-indolinone
Prepared from 1-acetyl-3-(1-chloro-1-phenyl-methylidene)-6-trifluoromethyl-2-indolinone and N-(2-dimethylamino-ethyl)-N-methylsulphonyl-p-phenylenediamine

reactant | 1-acetyl-3-(1-chloro-1-phenyl-methylidene)-6-trifluoromethyl-2-indolinone | C(C)(=O)N1C(C(C2=CC=C(C=C12)C(F)(F)F)=C(C1=CC=CC=C1)Cl)=O | C18H11ClF3NO2
reactant | N-(2-dimethylamino-ethyl)-N-methylsulphonyl-p-phenylenediamine | CN(CCN(C1=CC=C(C=C1)N)S(=O)(=O)C)C | C11H19N3O2S
product | 3-(Z)-(1-{4-[N-(2-dimethylamino-ethyl)-N-methylsulphonyl-amino]-anilino}-1-phenyl-methylidene)-6-trifluoromethyl-2-indolinone | CN(CCN(S(=O)(=O)C)C1=CC=C(N\C(\C2=CC=CC=C2)=C\2/C(NC3=CC(=CC=C23)C(F)(F)F)=O)C=C1)C | C27H27F3N4O3S
